US09255097B2
Preparation 120B: {1-[4-cyano-5-(3-fluoro-4-methoxy-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester
A mixture of [1-(5-chloro-4-cyano-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester (200 mg, 0.54 mmol), 3-fluoro-4-methoxybenzeneboronic acid (278 mg, 1.63 mmol), Pd(dppf)2Cl2 (119 mg, 0.16 mmol), and Na2CO3 (173 mg, 1.63 mmol) in dioxane (5 mL) and H2O (1 mL) was degassed with N2 and stirred at 145° C. in the microwave for 2 h. The reaction mixture was cooled to RT and filtered. The filtrate was concentrated in vacuo and the residue purified by preperative HPLC to give 110 mg of the desired product (45%). [M+H] Calc'd for C23H28FN5O4, 458. Found, 458.

reactant | [1-(5-chloro-4-cyano-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 0.54 mmol, 200 mg | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C(=C(N1)C#N)Cl)=O)C)=O | C16H22ClN5O3
reactant | 3-fluoro-4-methoxybenzeneboronic acid | 1.63 mmol, 278 mg | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
reactant | Na2CO3 | 1.63 mmol, 173 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(dppf)2Cl2 | 0.16 mmol, 119 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {1-[4-cyano-5-(3-fluoro-4-methoxy-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 110 mg, 45% | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C(=C(N1)C#N)C1=CC(=C(C=C1)OC)F)=O)C)=O | C23H28FN5O4
